US04271164
Following the procedure of Example 11, 3.0 g of 6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-amine and 2.0 g of carbonyldiimidazole are reacted at reflux in 50 ml of 1,2-dichloroethane for 24 hours. The mixture is cooled, treated sequentially with 1.5 g of dimethylamine hydrochloride and 2 ml of triethylamine, and stirred at room temperature for 1.5 hours. It is then washed with water prior to chromatography over 150 g of silica gel. The product is eluted with a 99/1 chloroform/methanol mixture and recrystallized from ethyl acetate to give N-[6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-yl]-N',N'-dimethylurea, mp 177°-181° C.

reactant | 6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-amine | 3.0 g | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)C)N=C1N | C14H10Cl2N4
reactant | carbonyldiimidazole | 2.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine hydrochloride | 1.5 g | Cl.CNC
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | N-[6-(2,6-dichlorophenyl)-2-methylpyrido[2,3-d]pyrimidin-7-yl]-N',N'-dimethylurea | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=C2)C)N=C1NC(=O)N(C)C | C17H15Cl2N5O
